US09085575B2
1.5 g (15 mmol) of 2-cyanoethanethioamide, 60 ml of ethanol and one drop of piperidine are added respectively to 5 g (15 mmol) of tert-butyl 4-(4-formyl-3-nitrophenyl)piperazine-1-carboxylate. The reaction mixture is stirred at room temperature for 12 hours. The precipitate obtained is filtered to yield 5.2 g (83%) of tert-butyl 4-(4-(3-amino-2-cyano-3-thioxoprop-1-enyl)-3-nitrophenyl)piperazine-1-carboxylate in the form of a yellow solid.

reactant | 2-cyanoethanethioamide | 15 mmol, 1.5 g | C(#N)CC(N)=S | C3H4N2S
reactant | tert-butyl 4-(4-formyl-3-nitrophenyl)piperazine-1-carboxylate | 15 mmol, 5 g | C(=O)C1=C(C=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)[N+](=O)[O-] | C16H21N3O5
catalyst | piperidine | one drop | N1CCCCC1 | C5H11N
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | tert-butyl 4-(4-(3-amino-2-cyano-3-thioxoprop-1-enyl)-3-nitrophenyl)piperazine-1-carboxylate | 5.2 g, 83% | NC(C(=CC1=C(C=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)[N+](=O)[O-])C#N)=S | C19H23N5O4S
